US07569600B2
To a mixture of THF (0.5 mL) and diisopropylamine (31 μl, 0.22 mmol) cooled to −40° C. n-BuLi (1.3 M, 165 μl, 0.21 mmol) was added dropwise. After stirring at this temperature for 30 min it was cooled to −78° C. and 3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester (82 mg, 0.18 mmol) in THF (0.5 mL) was added dropwise. The mixture was stirred at this temperature for 30 min. Cyclohex-2-enone (20 μl, 0.21 mmol) was added quickly and it was stirred for 20 min at −78° C. Saturated NH4Cl solution was added and the mixture was allowed to come to room temperature. It was extracted with EtOAc. The extract was washed with brine, dried (MgSO4) and evaporated. Pure 5-(1-hydroxy-cyclohex-2-enyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester was obtained after chromatography over silica gel (hexane:EtOAc—80:20 as eluent) (48 mg, 48%).

reactant | diisopropylamine | 0.22 mmol, 31 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.21 mmol, 1.3 M, 165 μl | [Li]CCCC
reactant | 3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester | 0.18 mmol, 82 mg | COC(=O)C=1SC=CC1N([C@@H]1CC[C@H](CC1)OC1OCCCC1)C(=O)[C@@H]1CC[C@H](CC1)C | C25H37NO5S
reactant | Cyclohex-2-enone | 0.21 mmol, 20 μl | C1(C=CCCC1)=O | C6H8O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 5-(1-hydroxy-cyclohex-2-enyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)OC1OCCCC1)C(=O)[C@@H]1CC[C@H](CC1)C)C1(C=CCCC1)O | C31H45NO6S
